2199-08-29 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2199-8-28**] 07:00 PM
 DIALYSIS CATHETER - START [**2199-8-28**] 07:00 PM
   - Emotional
   - vomited this AM
   - some discomfort in back of throat
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-29**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 88 (78 - 92) bpm
   BP: 159/91(107) {127/74(90) - 159/104(112)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,458 mL
                                                                  3,897 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,408 mL
                                                                  3,797 mL
   Blood products:
   Total out:
                                                                    987 mL
                                                                  3,745 mL
   Urine:
                                                                    600 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                    152 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GEN: Middle-aged female, alert, not as tearful as yesterday
   HEENT: some alopecia right parietal area, a small mouth sore present,
   yellowish light plaque on tongue, didn
t go away after brushing teeth
   CV: regular rhythm, 3/6 systolic murmur loudest at upper sternal border
   PULM: Patient is breathing comfortably. Clear to auscultation in
   posterior chest
   ABD:  +BS, soft but full, mildly distended, nontender, midline
   abdominal scar
   EXT:  no edema, extremities warm and well perfused, 2 + DP
   Neuro:  CN II-XII grossly intact, sensation to light touch intact
   throughout.  5/5 strength in her upper and lower extremitites
   bilaterally.
   SKIN: Erythematous surrounding Right subclavian Dialysis catheter site
   and Left sided PICC line site
   Labs / Radiology
   505 K/uL
   8.2 g/dL
   108 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   6 mg/dL
   107 mEq/L
   143 mEq/L
   25.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2199-8-28**]  08:09 PM
                             [**2199-8-28**]  08:10 PM
                             [**2199-8-29**]  03:07 AM
   WBC
   6.0
   5.9
   Hct
   24.7
   25.6
   Plt
   566
   505
   Cr
   0.8
   0.9
   Glucose
   109
   108
   Other labs: PT / PTT / INR:12.2/25.0/1.0, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   39-year-old woman with type I diabetes, s/p 2 kidney transplants and a
   double kidney and pancreas transplant secondary to crescentic
   glomerulonephritis, now also with EBV-associated B-cell CNS lymphoma.
   # Acute renal failure s/p kidney transplant:
   Creatinine 2.9 on admission, but 0.9 today after hemodialysis and after
   having started CVVH.  Possible that kidneys were further injured by
   methotrexate.  Has some chronic renal insufficiency w the transplant
   kidneys.  Now that she has been on HD, Cr level has been lowered to
   0.8. Pancreas working fine; diabetes no longer an issue.  CVVH until
   methotrexate level <0.1
   - continue on CellCept, per transplant recs; continue prednisone 4mg
   daily
   - cont sodium bicarb 1300 PO Q6 and monitor urine for pH >7.5
   - follow up renal recommendations; renal transplant team is following
   and managing CVVH.
   - free calcium low
 stopped citrate w CVVH
   # EBV-Associated B-cell CNS Lymphoma:   Just received cycle 2 of
   Methotrexate with leucovorin.  [**Last Name (un) **] how many cycles of methotrexate
   are planned.
   - continue leucovorin rescue, which was started on floor per Dr. [**Last Name (STitle) 2351**]
   - alkalinizing urine with bicarb (follow urine PH) and initiating CVVH
   for MTX clearance
   - F/u MTX levels as directed by onc.
   - monitor blood counts
   - antiemetics with zofran prn
   - f/u Onc recs
   # Psych: emotional lability, and agitation. Thought to be secondary to
   lymphoma.
   - Continued reassurance.
   - Ativan prn for anxiety and insomnia.
   - SW consult for coping
pt had refused SW consults in past in the ICU.
   - talk to Dr. [**Last Name (STitle) 2351**] about possibility of doing HD multiple times rather
   than CVVH b/c pt wanted to leave against medical advice this AM
   # Anemia: Hct stable at 25, near baseline.  Likely secondary to recent
   chemo.
   - Trend Hct.
   - Continue ferrous sulfate.
   - Transfuse for Hct < 21.
   # Hypertension: BPs stable in 120s-150s.
   - continue home regimen of atenolol 100 mg po daily and amlodipine 5mg
   daily
   # Diabtes type 1 s/p pancreas transplant: Patient does not require
   insulin as an outpatient since her transplant.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-8-28**] 07:00 PM
   Dialysis Catheter - [**2199-8-28**] 07:00 PM
   Prophylaxis:
   DVT:  pneumoboots, subq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:

2199-08-29 09:22:00 Physician Attending Progress Note
Chief Complaint: Chronic renal failure, lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on CVVH overnight. Cellcept restarted. No dyspnea. No
   hemodynamic problems. Oxygen saturation excellent without supplemental
   oxygen.
   Getting bicarb infusion to protect renal tubules.
   24 Hour Events:
 PICC LINE - START [**2199-8-28**] 07:00 PM
 DIALYSIS CATHETER - START [**2199-8-28**] 07:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   prednisone, amlodipine, iron, sodium bicarb, leukovorin, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-29**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 94 (78 - 94) bpm
   BP: 149/94(107) {127/74(90) - 159/104(112)} mmHg
   RR: 27 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,458 mL
                                                                  4,792 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,408 mL
                                                                  4,692 mL
   Blood products:
   Total out:
                                                                    987 mL
                                                                  4,412 mL
   Urine:
                                                                    600 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                    380 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Cushingoid
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   505 K/uL
   108 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   6 mg/dL
   107 mEq/L
   143 mEq/L
   25.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2199-8-28**]  08:09 PM
                             [**2199-8-28**]  08:10 PM
                             [**2199-8-29**]  03:07 AM
   WBC
   6.0
   5.9
   Hct
   24.7
   25.6
   Plt
   566
   505
   Cr
   0.8
   0.9
   Glucose
   109
   108
   Other labs: PT / PTT / INR:12.2/25.0/1.0, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   ANEMIA
   ======================
   Patient tolerating CVVH well. Electrolytes normal. Acid-base status
   normal.
   Hct at baseline. No evidence of bleeding. Not at transfusion threshold.
   Continue CVVH until methotrexate levels come down.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-8-28**] 07:00 PM
   Dialysis Catheter - [**2199-8-28**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: VAP protocol not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2199-08-30 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - f/u lfts: 54-50-311
   - case management
   -lasix 10 daily if low uop
   -K was increasing (5.2) on a bag of 4.0 with decreasing bicarb; called
   renal; re-checked lytes at 0000. K was OK at 4.6 and HCO3 stable, so
   kept the same bags. No intervention done.
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-30**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 88 (77 - 104) bpm
   BP: 175/102(128) {130/75(91) - 175/110(128)} mmHg
   RR: 22 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 10,842 mL
                                                                  1,920 mL
   PO:
                                                                  2,400 mL
             TF:
   IVF:
                                                                  8,442 mL
                                                                  1,920 mL
   Blood products:
   Total out:
                                                                 11,150 mL
                                                                  2,833 mL
   Urine:
                                                                  4,425 mL
                                                                    910 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -308 mL
                                                                   -913 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   GEN: Middle-aged female, alert, not as tearful as yesterday
   HEENT: some alopecia right parietal area, a small mouth sore present,
   yellowish light plaque on tongue, didn
t go away after brushing teeth
   CV: regular rhythm, 3/6 systolic murmur loudest at upper sternal border
   PULM: Patient is breathing comfortably. Clear to auscultation in
   posterior chest
   ABD:  +BS, soft but full, mildly distended, nontender, midline
   abdominal scar
   EXT:  no edema, extremities warm and well perfused, 2 + DP
   Neuro:  CN II-XII grossly intact, sensation to light touch intact
   throughout.  5/5 strength in her upper and lower extremitites
   bilaterally.
   SKIN: Erythematous surrounding Right subclavian Dialysis catheter site
   and Left sided PICC line site
   Labs / Radiology
   524 K/uL
   8.6 g/dL
   132 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.6 mEq/L
   11 mg/dL
   106 mEq/L
   134 mEq/L
   26.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2199-8-28**]  08:09 PM
                             [**2199-8-28**]  08:10 PM
                             [**2199-8-29**]  03:07 AM
                             [**2199-8-29**]  09:02 AM
                             [**2199-8-29**]  03:00 PM
                             [**2199-8-29**]  09:02 PM
                             [**2199-8-30**]  12:00 AM
                             [**2199-8-30**]  03:01 AM
   WBC
   6.0
   5.9
   8.7
   Hct
   24.7
   25.6
   26.4
   Plt
   566
   505
   524
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   Glucose
   109
   108
   95
   134
   114
   115
   132
   Other labs: PT / PTT / INR:11.6/24.7/1.0,
   ALT / AST:89/76,
    Alk Phos / T Bili:76/0.3,
   LDH:327 IU/L,
    Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   39-year-old woman with type I diabetes, s/p 2 kidney transplants and a
   double kidney and pancreas transplant secondary to crescentic
   glomerulonephritis, now also with EBV-associated B-cell CNS lymphoma.
   # Acute renal failure s/p kidney transplant:
   Creatinine 2.9 on admission, but 0.9 today after hemodialysis and after
   having started CVVH.  Possible that kidneys were further injured by
   methotrexate.  Has some chronic renal insufficiency w the transplant
   kidneys.  Now that she has been on HD, Cr level has been lowered to
   0.8. Pancreas working fine; diabetes no longer an issue.  CVVH until
   methotrexate level <0.1
   - continue on CellCept, per transplant recs; continue prednisone 4mg
   daily
   - cont sodium bicarb 1300 PO Q6 and monitor urine for pH >7.5
   - follow up renal recommendations; renal transplant team is following
   and managing CVVH.
   - free calcium low
 stopped citrate w CVVH
   # EBV-Associated B-cell CNS Lymphoma:   Just received cycle 2 of
   Methotrexate with leucovorin.  [**Last Name (un) **] how many cycles of methotrexate
   are planned.
   - continue leucovorin rescue, which was started on floor per Dr. [**Last Name (STitle) 2351**]
   - alkalinizing urine with bicarb (follow urine PH) and initiating CVVH
   for MTX clearance
   - F/u MTX levels as directed by onc.
   - monitor blood counts
   - antiemetics with zofran prn
   - f/u Onc recs
   # Psych: emotional lability, and agitation. Thought to be secondary to
   lymphoma.
   - Continued reassurance.
   - Ativan prn for anxiety and insomnia.
   - SW consult for coping
pt had refused SW consults in past in the ICU.
   - talk to Dr. [**Last Name (STitle) 2351**] about possibility of doing HD multiple times rather
   than CVVH b/c pt wanted to leave against medical advice this AM
   # Anemia: Hct stable at 25, near baseline.  Likely secondary to recent
   chemo.
   - Trend Hct.
   - Continue ferrous sulfate.
   - Transfuse for Hct < 21.
   # Hypertension: BPs stable in 120s-150s.
   - continue home regimen of atenolol 100 mg po daily and amlodipine 5mg
   daily
   # Diabtes type 1 s/p pancreas transplant: Patient does not require
   insulin as an outpatient since her transplant.
   ICU Care
   Nutrition:
   Glycemic Control:  None
   Lines:
   PICC Line - [**2199-8-28**] 07:00 PM
   Dialysis Catheter - [**2199-8-28**] 07:00 PM
   Prophylaxis:
   DVT: pneumo boots, Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU pending completion of CVVH to decrease methotrexate
   level

2199-08-30 12:11:00 Physician Attending Progress Note
Chief Complaint: Renal failure, lymphoma, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continued on CVVH through the day yesterday. Hemodynamics stable. Creat
   and electrolytes normal.
   MTX level this AM is below the threshold for stopping CVVH.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-30**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 97 (84 - 104) bpm
   BP: 165/95(114) {130/75(93) - 178/110(128)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 10,842 mL
                                                                  3,907 mL
   PO:
                                                                  2,400 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  8,442 mL
                                                                  3,487 mL
   Blood products:
   Total out:
                                                                 11,150 mL
                                                                  4,830 mL
   Urine:
                                                                  4,425 mL
                                                                  1,660 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -308 mL
                                                                   -923 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Cushingoid
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Clear anterior and lateral, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   524 K/uL
   117 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.2 mEq/L
   11 mg/dL
   108 mEq/L
   137 mEq/L
   26.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2199-8-28**]  08:09 PM
                             [**2199-8-28**]  08:10 PM
                             [**2199-8-29**]  03:07 AM
                             [**2199-8-29**]  09:02 AM
                             [**2199-8-29**]  03:00 PM
                             [**2199-8-29**]  09:02 PM
                             [**2199-8-30**]  12:00 AM
                             [**2199-8-30**]  03:01 AM
                             [**2199-8-30**]  10:11 AM
   WBC
   6.0
   5.9
   8.7
   Hct
   24.7
   25.6
   26.4
   Plt
   566
   505
   524
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   Glucose
   109
   108
   95
   134
   114
   115
   132
   117
   Other labs: PT / PTT / INR:11.6/24.7/1.0, ALT / AST:89/76, Alk Phos / T
   Bili:76/0.3, LDH:327 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   ANEMIA
   -------------------
   Doing well. MTX level down. Should be able to stop CVVH today.
   Electrolytes and creat normal.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-8-28**] 07:00 PM
   Dialysis Catheter - [**2199-8-28**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes